US07427688B2
Synthesis of 2-amino-3,3-bis(4-fluorophenyl)propanoic acid hydrochloride
A solution (144 mL) of 2-acetylamino-3,3-bis(4-fluorophenyl)propanoic acid (25.34 g, 79.9 mmol) in concentrated hydrochloric acid was stirred at 90° C. for 5 hrs, and cooled in an ice bath to allow solid precipitation. The solid was collected by filtration and dried to give the title compound (22.79 g).

reactant | 2-acetylamino-3,3-bis(4-fluorophenyl)propanoic acid | 79.9 mmol, 144 mL, 25.34 g | C(C)(=O)NC(C(=O)O)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H15F2NO3
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3,3-bis(4-fluorophenyl)propanoic acid hydrochloride | 22.79 g | Cl.NC(C(=O)O)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C15H13F2NO2.ClH/c16-11-5-1-9(2-6-11)13(14(18)15(19)20)10-3-7-12(17)8-4-10;/h1-8,13-14H,18H2,(H,19,20);1H
